US05194602
3,20-Dihydroxyiminopregna-4,16-dien-9α-ol
Nitrosyl chloride, prepared from sodium chloride and nitrosyl sulfuric acid, was passed into methylene chloride (7 ml) at 0° C., until a burgundy colour had developed. The solution was added in one action to 3,3-ethylenedioxypregna-5,17(20)-dien-9α-ol (301 mg). The reaction mixture was stirred for 3 minutes after which the solvents were evaporated under reduced pressure. The residue was taken up in a mixture of tetrahydrofuran (15 ml) and water (1.5 ml). Triethylamine (1.6 ml) was added dropwise, then the mixture was refluxed for 2 hours. After cooling to room temperature, methylene chloride (100 ml) was added and the mixture was washed twice with a 5% aqueous potassium carbonate solution, dried (MgSO4) and concentrated under reduced pressure. The crude product (251 mg) was chromatographed (silica gel, toluene/acetone 3/1) to afford the title compound as a isomeric mixture of syn and anti 20-oximes, both containing a 3-hydroxyimino group in the syn configuration.

reactant | Nitrosyl chloride | N(=O)Cl | ClNO
reactant | sodium chloride | [Cl-].[Na+]
reactant | nitrosyl sulfuric acid | N(=O)OS(O)(=O)=O | HNO5S
reactant | 3,3-ethylenedioxypregna-5,17(20)-dien-9α-ol | 301 mg | C1OC2(CC3=CC[C@H]4[C@@H]5CCC(=CC)[C@]5(CC[C@@]4([C@]3(CC2)C)O)C)OC1 | C23H34O3
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
product | 3,20-Dihydroxyiminopregna-4,16-dien-9α-ol | ON=C1C=C2CC[C@H]3[C@@H]4CC=C(C(C)=NO)[C@]4(CC[C@@]3([C@]2(CC1)C)O)C | C21H30N2O3
